US07960394B2
3,8-Dimethyl-2-(4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)pyrido[4,3-d]pyrimidin-4(3H)-one
The entitled compound was obtained according to the method of Example 15 but starting from 4-amino-5-methylnicotinic acid, methylamine and 4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}benzaldehyde.

reactant | 4-amino-5-methylnicotinic acid | NC1=C(C=NC=C1C(=O)O)C | C7H8N2O2
reactant | methylamine | CN | CH5N
reactant | 4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}benzaldehyde | C[C@@H]1CN(CCC1)CCCOC1=CC=C(C=O)C=C1 | C16H23NO2
product | 3,8-Dimethyl-2-(4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)pyrido[4,3-d]pyrimidin-4(3H)-one | CN1C(=NC2=C(C1=O)C=NC=C2C)C2=CC=C(C=C2)OCCCN2C[C@H](CCC2)C | C24H30N4O2
